US04956465
Ethyl 7-(cyano-ethoxycarbonyl-methyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate
86.2 g of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate and 63.3 g of ethyl cyanoacetate are initially introduced into 1,000 ml of dioxane. 15.8 g of NaH are added in portions. The mixture is then heated to reflux for 4 hours. The completeness of the reaction is checked using thin-layer chromatography. After completion of the reaction, water is added dropwise. The mixture is then rendered acidic using dilute HCl and extracted using methylene chloride. The organic phase is dried and evaporated. The residue is recrystallized from isopropanol.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | 86.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | ethyl cyanoacetate | 63.3 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | NaH | 15.8 g | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | dioxane | 1,000 ml | O1CCOCC1 | C4H8O2
product | Ethyl 7-(cyano-ethoxycarbonyl-methyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | C(#N)C(C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F)C(=O)OCC | C20H18F2N2O5
